US05932735
1-Oxyl-2,2,6,6-tetramethyl-piperidin-4-yl Butylcarbamate
0.1 g of di-n-butyltin dilaurate is added to a solution of 1.0 g (5.8 mmol) of 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine and 0.58 g (5.8 mmol) of butyl isocyanate in 10 mL of carbon tetrachloride. After stirring for four hours at ambient temperature, the solution is concentrated and the title compound is isolated as a red oil after column chromatography.

reactant | di-n-butyltin dilaurate | 0.1 g | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
reactant | 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine | 5.8 mmol, 1.0 g | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
reactant | butyl isocyanate | 5.8 mmol, 0.58 g | C(CCC)N=C=O | C5H9NO
solvent | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Oxyl-2,2,6,6-tetramethyl-piperidin-4-yl Butylcarbamate | C(CCC)NC(OC1CC(N(C(C1)(C)C)O)(C)C)=O | C14H28N2O3
